US08227462B2
Imidazole-1-carboxylic acid [4-methyl-5-(2-methylsulphanyl-pyrimidin-4-yl)-thiazol-2-yl]-amide
Carbonyl diimidazole (1.77 g) is added to a solution of 4-methyl-5-(2-methylsulphanyl-pyrimidin-4-yl)-thiazol-2-ylamine (1.3 g) in triethylamine (0.84 ml) and DMF (5.5 ml) at room temperature and stirred for 2 hours at 80° C. After cooling the title compound is isolated by filtration.

reactant | Carbonyl diimidazole | 1.77 g | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | 4-methyl-5-(2-methylsulphanyl-pyrimidin-4-yl)-thiazol-2-ylamine | 1.3 g | CC=1N=C(SC1C1=NC(=NC=C1)SC)N | C9H10N4S2
reactant | DMF | 5.5 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.84 ml | C(C)N(CC)CC | C6H15N
product | Imidazole-1-carboxylic acid [4-methyl-5-(2-methylsulphanyl-pyrimidin-4-yl)-thiazol-2-yl]-amide | CC=1N=C(SC1C1=NC(=NC=C1)SC)NC(=O)N1C=NC=C1 | C13H12N6OS2
